US04588448
100 g of phenolsulphonic acid (produced by a four-hour sulphonation of 250 parts of phenol with 270 parts of 98% sulphuric acid) are slowly reacted with a solution of 61.5 g of dimethylolurea in 75 g of water at 40° C. and the mixture is stirred for a few hours until a clear solution forms. The solution is then neutralised with 30% aqueous sodium hydroxide and then concentrated. About 150 g of a light coloured salt are produced.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | phenolsulphonic acid | 100 g | C=1C=CC(=C(C1)O)S(=O)(=O)O | C6H6O4S
